US07179835B2
(2S)-2-((3S)-3-{[(6-Chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)-N-isopropyl-N-{2-[(methylsulfonyl)amino]ethyl}propanamide
(2S)-N-(2-Aminoethyl)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)-N-isopropylpropanamide (0.04 g) was dissolved in DCM (3 ml) at 0° C. and was treated with pyridine (0.027 ml) and mesyl chloride (0.03 ml). The reaction mixture was allowed to reach room temperature and then stirred at room temperature for 3 h. Additional DCM (3 ml) followed by hydrochloric acid (5 ml) was added. The organic layer was separated, dried (over magnesium sulphate) and concentrated under reduced pressure. The residue was purified using SPE (silica, eluting with DCM, diethyl ether, ethyl acetate:10% aqueous NH3) to give the title compound (0.024 g) as gum.

reactant | (2S)-N-(2-Aminoethyl)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)-N-isopropylpropanamide | 0.04 g | NCCN(C([C@H](C)N1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O)=O)C(C)C | C22H29ClN4O4S
reactant | pyridine | 0.027 ml | N1=CC=CC=C1 | C5H5N
reactant | mesyl chloride | 0.03 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-((3S)-3-{[(6-Chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)-N-isopropyl-N-{2-[(methylsulfonyl)amino]ethyl}propanamide | 0.024 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)N(CCNS(=O)(=O)C)C(C)C)C)=O | C23H31ClN4O6S2
